US07189741B2
This compound was prepared following the procedure described in example 13 (part B) starting with 2.2 g (7.5 mmol) of 4-(6-fluoro-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester (example 24, part A) and 1.1 mL (8.8 mmol) of 2-chloro-5-chloromethyl-thiophene. The reaction mixture was stirred at room temperature for 18 hours. After standard work-up, 2.2 g (68% of yield) of 4-[1-(5-chloro-thiophen-2-ylmethyl)-6-fluoro-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(6-fluoro-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 7.5 mmol, 2.2 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC(=CC=C12)F | C16H19FN2O2
reactant | 2-chloro-5-chloromethyl-thiophene | 8.8 mmol, 1.1 mL | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 4-[1-(5-chloro-thiophen-2-ylmethyl)-6-fluoro-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 2.2 g, 68% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC(=CC=C12)F)CC=1SC(=CC1)Cl | C21H22ClFN2O2S
